### PR TITLE
Simplify handling of round_robin sched contexts

### PR DESCRIPTION
**Pull request by MitchellBuckley**
This change to the abstract spec bring the `rt` branch closer to `master` by simplifying how round-robin scheduling contexts are handled in some cases.

It based on the commit here:
https://bitbucket.ts.data61.csiro.au/projects/SEL4/repos/sel4/pull-requests/1781/commits/17e54fa8d0e389b44c7f87b91c35b568fcc14924#include/kernel/sporadic.h
in the pull-request here:
https://bitbucket.ts.data61.csiro.au/projects/SEL4/repos/sel4/pull-requests/1781/commits

### CODE REVIEW

**Review by mbrcknl — APPROVED** [review]
Looks good!

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 1]
```diff
@@ -7107,6 +7110,34 @@ lemma refill_update_valid_sched_misc[wp]:
...
+  apply (clarsimp simp: vs_all_heap_simps obj_at_def refill_ready_sc_def)
+  by (case_tac "sc_refills sc"; simp)
+
+lemma maybe_add_empty_tail_is_refill_ready[wp]:
+  "maybe_add_empty_tail sc_ptr \<lbrace>\<lambda>s. Q (is_refill_ready scp s)\<rbrace>"
+  by (rule hoare_lift_Pf[where f = cur_time]; wpsimp)
+
+lemma maybe_add_empty_tail_is_refill_sufficient[wp]:
+  "\<lbrace>is_refill_sufficient usage scp
+    and (\<lambda>s. scp = sc_ptr \<longrightarrow>
```
Comment (michaelmcinerney) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:7132]: Can we have an empty refill list if it's refill sufficient? Maybe I'm not reading this right

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 2]
```diff
@@ -7581,17 +7603,18 @@ lemma sc_valid_refills_times_bounded:
...
   \<Longrightarrow> r_time x \<le> r_time (refill_hd sc) + sc_period sc"
-  apply (frule (1) sc_valid_refills_times_bounded_helper)
+  apply (frule (2) sc_valid_refills_times_bounded_helper)
   apply (clarsimp simp: sc_valid_refills_def window_def word_le_nat_alt split: if_splits)
   apply (subst unat_add_lem', overflow_hammer)
   apply (erule (1) order_trans[rotated])
   done
 
 lemma sc_valid_refills_no_overflow:
   "sc_valid_refills sc
```
Comment (michaelmcinerney) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:7613]: I've seen Gerwin say elsewhere that we prefer the [| _ ; _; ... |] ==> _ format, rather than the string of ==>s (though I'm not certain of his reasons)

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 3]
```diff
@@ -8372,143 +8394,26 @@ lemma MIN_BUDGET_lower_bounds[elim!]:
...
-    apply (rule_tac y="r_time t" in order_trans)
-     apply (meson order_trans_rules(23) word_le_nat_alt word_sub_le)
-    using unat_sum_bound_equiv no_overflow_length2 apply blast
-   apply clarsimp
-   using unat_plus_gt_trans apply blast
+  apply (clarsimp simp: refill_budget_check_round_robin_def)
   apply (wpsimp wp: set_refills_wp)
-  apply (clarsimp simp: vs_all_heap_simps valid_refills_def rr_valid_refills_def3 obj_at_def MIN_REFILLS_def
-                        ordered_disjoint_def no_overflow_def window_def
+  apply (case_tac "p = cur_sc s"; simp?)
```
Comment (michaelmcinerney) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:8405]: Maybe just go `case_tac "p ~= cur_sc s"`, rather than the case_tac then prefer 2?

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 4]
```diff
@@ -8372,143 +8394,26 @@ lemma MIN_BUDGET_lower_bounds[elim!]:
...
+   apply (clarsimp simp: vs_all_heap_simps)
+  apply (clarsimp simp: vs_all_heap_simps valid_refills_def rr_valid_refills_def obj_at_def
+                        list_length_2 MIN_REFILLS_def
                  split: if_splits)
-  done
+  apply (intro conjI)
+   apply (clarsimp simp: refill_sufficient_def refill_capacity_def split: if_splits)
+  apply (subst unat_split_plus[symmetric]; clarsimp)
+  apply (clarsimp simp: refill_sufficient_def refill_capacity_def split: if_splits)
+  using MIN_BUDGET_nonzero apply blast
```
Comment (michaelmcinerney) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:8415]: Indentation here?

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 5]
```diff
@@ -9732,7 +9640,8 @@ lemma commit_time_active_sc_valid_refills:
       apply (wpsimp wp: assert_inv is_round_robin_wp)+
   apply (clarsimp simp: obj_at_def cur_sc_more_than_ready_def)
   apply (subgoal_tac "cur_sc_active s")
-  apply (fastforce intro: current_time_bounded_strengthen consumed_time_bounded_helper)
+   apply (clarsimp intro: current_time_bounded_strengthen consumed_time_bounded_helper)
```
Comment (michaelmcinerney) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:9643]: I remember Japheh saying something about an `intro` not actually doing anything in a `clarsimp`. Does this use this rule? I think he said it requires `intro!: ` to use it. Maybe I'm way off here

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 6]
```diff
@@ -14146,6 +14061,32 @@ lemma set_sc_obj_ref_tcb_ready_times_other:
...
+  apply (wpsimp wp: update_sched_context_wp is_round_robin_wp)
+  apply (erule rsubst[of P])
+  apply (clarsimp simp: tcb_ready_times_defs map_project_simps map_join_simps map_project_def map_join_def
+                        vs_all_heap_simps opt_map_simps
+                 split: if_splits)
+  apply (case_tac "(tcb_scps_of s |> id |> sc_refill_cfgs_of s) t"; simp)
+   apply (clarsimp simp: tcb_ready_times_defs map_project_simps map_join_simps map_project_def map_join_def
+                         vs_all_heap_simps opt_map_simps obj_at_def
+                  split: if_splits)
+   apply (frule_tac x=ya in spec, fastforce)
```
Comment (michaelmcinerney) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:14079]: Could you rename some of these green variables?

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 7]
```diff
@@ -15053,11 +15016,63 @@ lemma charge_budget_ct_not_in_q[wp]:
   unfolding charge_budget_def
   by (wpsimp wp: hoare_vcg_if_lift2 hoare_drop_imp)
 
+lemma refill_reset_rr_released_sc_tcb_at[wp]:
+  "\<lbrace>released_sc_tcb_at x
```
Comment (michaelmcinerney) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:15020]: Very minor, but x is an unusual choice for a variable name

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 8]
```diff
@@ -15053,11 +15016,63 @@ lemma charge_budget_ct_not_in_q[wp]:
...
+  "\<lbrace>active_sc_valid_refills
+    and (\<lambda>s. pred_map (\<lambda>cfg. scrc_period cfg = 0) (sc_refill_cfgs_of s) csc_ptr)\<rbrace>
+   refill_reset_rr csc_ptr
+   \<lbrace>\<lambda>_. active_sc_valid_refills :: 'state_ext state \<Rightarrow> _\<rbrace>"
+  unfolding refill_reset_rr_def
+  apply (wpsimp wp: set_refills_wp)
+  apply (clarsimp simp: active_sc_valid_refills_def)
+  apply (drule_tac x=scp in spec)
+  apply (prop_tac "is_active_sc scp s")
+  apply (clarsimp simp: pred_map_def vs_all_heap_simps obj_at_def split: if_splits)
```
Comment (michaelmcinerney) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:15057]: Indentation

**Review by michaelmcinerney — APPROVED** [review]
Kewl!

File: spec/abstract/SchedContext_A.thy [hunk 9]
```diff
@@ -170,33 +183,14 @@ where
...
-                 set_refills sc_ptr (new_hd # [new_tl])
-              od
-         else do assert (length refills = 2);
-                 new_tl \<leftarrow> return $ \<lparr>r_time = r_time (hd (tl refills)) - usage2,
-                                     r_amount = r_amount (hd (tl refills)) + usage2\<rparr>;
-                 set_refills sc_ptr (new_hd # [new_tl])
-              od
-         od
-    else set_refills sc_ptr [\<lparr>r_time = 0, r_amount = sc_budget sc\<rparr>]
+    set_refills sc_ptr [\<lparr>r_time = r_time (hd refills), r_amount = r_amount (hd refills) - usage\<rparr>,
```
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply spec/abstract/SchedContext_A.thy:192]: Yeah, I think so. Previously this function was called whenever the rr sched context needed to be charged. It now is only called when charged in the no-overrun case. In the over-run case we use a different function which just resets the sc.

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 1 above)
Comment (MitchellBuckley) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:7132]: Unfortunately, refill sufficiency is expressed in terms of the head refill. And because `hd` is a partial function, it is agnostic as to whether and the refills list is empty, so you can express refill sufficiency without knowing if the head exists or not.

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 2 above)
Comment (MitchellBuckley) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:7613]: I changed a few and then realised how many might need changing so I left it at one or two fix-ups.

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 5 above)
Comment (MitchellBuckley) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:9643]: You were right!

**Review by mbrcknl — APPROVED** [review]

**Review by mktnk3 — APPROVED** [review]
Thanks for doing this, Mitch. It looks like there’s a lot of cleanup, which is nice. There isn’t much change in Refine, but I guess most of the added changes are hidden in sorries at the moment, and we’ll see them as we go.

**Comment by xurtis** [comment]
Ah, so the simpler round-robin is verified now?

**Comment by MitchellBuckley** [comment]
@xurtis Yes, just merged.
